US09428509B2
6-(2-Chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole
6-(2,4-Dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), propan-2-ol (1.1 equiv), sodium tert-butoxide (1.1 equiv), and 1,4-dioxane (0.1 M) were combined and the resulting mixture was allowed to stir at 70° C. for several hours. The reaction was cooled and concentrated to an oil under reduced pressure that was purified by silica gel chromatography (0-30% ethyl acetate/hexane) to afford the title compound (101% yield) that was used without further purification. MS (ESI) m/z 473.3 [M+1]+.

reactant | 6-(2,4-Dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)Cl | C20H22Cl2N4O2Si
reactant | propan-2-ol | 1.1 equiv | CC(C)O | C3H8O
reactant | sodium tert-butoxide | 1.1 equiv | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
product | 6-(2-Chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 101% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC(C)C | C23H29ClN4O3Si
